Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Angioedema

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old female with history of C1 
esterase inhibitor deficiency type III w/ angioedema diagnosed 
one year ago. She is currently treated with Cinryze 1000 units 
IV every 3 days for prophylaxis and received it today prior to 
admission.  She states that she is currently menstruating and 
usually more symptomatic around this time, but her symptoms have 
been going on for about 3 weeks (scratchy throat, dysphagia) 
with acute worsening today manifested by hoarse voice, 
odynophagia and intense pain in her lower jaw and teeth.  She 
has never been intubated in the past.  She has had these 
symptoms since age ___, but "just dealt" with the symptoms up 
until she was ___ when she finally decided to be seen by a 
doctor.  On her intermittent trips to EDs, she was given 
steroids and she improved slowly, but always wondered if the 
steroids were actually working.  She was most recently seen by a 
physician at ___ who made the initial diagnosis with serial C1 
esterase inhibitor levels (normal) and her constellation of 
symptoms and started her on Cinryze in ___.  When her 
insurance no longer covered this doctor, she transferred her 
care over to ___ Allergy and Immunology, seen yesterday by a 
covering doctor, with no note in OMR at the time of this 
admission note.  Of note, she denies any abdominal symptoms or 
new skin findings.    

In the ED, initial VS were: 97.2 72 134/82 16 99% RA  Patient 
was given moprhine 4mg IV for neck pain, but did not complain of 
any trouble breathing or difficulty swallowing saliva.  She 
mentions that the pain in her neck is consistent with her "usual 
flare".  She does not demonstrate any stridor was able to speak 
in full sentences.  2 units of FFP were prepared prior to 
transfer of patient, but were not administered.  Vitals on 
transfer were: HR 59, BP 129/76, O2 97% RA.
.  
In the ICU, she is still in pain around her jaw with difficulty 
swallowing her own secretions and a hoarse voice.  She is 
uncomfortable, but breathing well on her own without stridor or 
increased effort.  
.  
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea. Denies 
cough, shortness of breath, or wheezing. Denies chest pain, 
chest pressure, palpitations, or weakness. Denies nausea, 
vomiting, diarrhea, constipation, abdominal pain, or changes in 
bowel habits. Denies dysuria, frequency, or urgency. Denies 
arthralgias or myalgias. Denies rashes or skin changes.  

 
Past Medical History:
C1 esterase inhibitor deficiency, type III
GERD

 
Social History:
___
Family History:
DM2 and breast cancer
 
Physical Exam:
ADMITTING PHYSICAL EXAM:
Vitals: T: 96.0 BP: 65 P: 125/77 R: 14 O2: 95%RA  
General: Alert, oriented, mild distress secondary to pain and 
fear of choking on her own saliva  
HEENT: Sclera anicteric, MMM, oropharynx clear without swollen 
mucosal surfaces and visibly normal-sized tonsilar pillars  
Neck: supple with mild swelling through, JVP not elevated, no 
LAD appreciated  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi. No stridor appreciated   
CV: Regular rate and rhythm, normal S1/S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley in place 
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  

Discharge Physical exam
VSS
Gen: alert and orientedx3 nad
Heent mmm
CV rrr no m/r/g
pulm: ctab
abd soft nt nd bs+
ext no ___ edema good pedal pulses bilaterally
 
Pertinent Results:
==============
Admitting labs:
==============
___ 02:00AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 02:00AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 02:00AM   PLT COUNT-340
___ 02:00AM   NEUTS-64.2 ___ MONOS-3.6 EOS-1.9 
BASOS-0.8
___ 02:00AM   WBC-9.7 RBC-4.60 HGB-13.9 HCT-40.1 MCV-87 
MCH-30.3 MCHC-34.8 RDW-13.0
___ 02:00AM URINE  UCG-NEGATIVE
___ 02:00AM URINE  HOURS-RANDOM
___ 02:00AM   estGFR-Using this
___ 02:00AM   GLUCOSE-94 UREA N-13 CREAT-0.8 SODIUM-142 
POTASSIUM-4.3 CHLORIDE-105 TOTAL CO2-29 ANION GAP-12
___ 04:25AM   ___ PTT-24.9 ___
___ 04:25AM   PLT COUNT-315
___ 04:25AM   NEUTS-63.7 ___ MONOS-2.9 EOS-2.5 
BASOS-0.7
___ 04:25AM   WBC-9.3 RBC-4.48 HGB-13.7 HCT-37.6 MCV-84 
MCH-30.6 MCHC-36.4* RDW-12.3
___ 04:25AM   GLUCOSE-96 UREA N-11 CREAT-0.8 SODIUM-139 
POTASSIUM-4.3 CHLORIDE-105 TOTAL CO2-24 ANION GAP-14
===============
Imaging:
===============
None
.
===============
Micro:
===============
None.
.
==============
Discharge labs:
==============

 
Brief Hospital Course:
# C1 esterase inhibitor deficiency: Patient appeared to be in an 
acute flare on presentation to the ICU. She was monitored to 
ensure she does not develop laryngeal edema and her respiratory 
status was also monitored.  She did not require intubation.  
Upon presentation, she had already received the ___ line 
treatment for an angioedema flare in hereditary angioedema 
(Cinryze) as prophylaxis.  FFP, for replacement of factors in 
the complement pathway, was considered, but was held per 
Allergy/Immunology recommendations. Per allergy/immunology the 
patient was started on ranitidine. Pain was controlled with 
morphine.  MRI of the soft tissues of the neck showed no acute 
swelling but did have some canal narrowing at c5-c7  Patient 
with improavement in symptoms and will f/u with allergy clinic 
for continued management.

 
Medications on Admission:
-C1 esterase inhibitor [Cinryze] 1000 units IV q 3 days 
-ranitidine HCl 150 mg daily (just prescribed, not yet started)
-sertraline 50 mg daily
-zolpidem 5mg PRN

 
Discharge Medications:
1. ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Cinryze 500 unit Recon Soln Sig: One (1) 1000U Intravenous 
q3days ().  
3. Zoloft 50 mg Tablet Sig: One (1) Tablet PO once a day.  
4. Ambien 5 mg Tablet Sig: One (1) Tablet PO at bedtime as 
needed for insomnia.  
5. Nicorette 4 mg Gum Sig: One (1) tab Buccal as directed: 
Please follow packaging instructions.
Disp:*1 package* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
C1 esterase inhibitor defficiency
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were diagnosed with episode of angioedema(swelling in your 
neck) from C1 esterase inhibitor deficiency.  Your symptoms 
improved with your cinryze.  An MRI of the neck was performed 
and the final reading can be reviewed at the allergy clinic 
visit.  Please also start taking the nicotine gum to help you 
quit smoking.
 
Followup Instructions:
___